US06706663B2
Preparation of 5-Amino-6-fluoro-3-(3-methyl-2-pyridyl)-1,2-benzisothiazole
A mixture of 4-amino-5-fluoro-2-(3-methylpicolinoyl)phenyl thiocyanate(3.06 g, 0.0112 mole), concentrated ammonium hydroxide (300 ml) and methanol (300 ml) is stirred overnight at room temperature. The methanol is removed in vacuo and the resultant mixture is filtered to afford the title compound as a green solid (1.93 g, 66.6%) which is identified by NMR spectral analysis.

reactant | 4-amino-5-fluoro-2-(3-methylpicolinoyl)phenyl thiocyanate | 0.0112 mole, 3.06 g | NC1=CC(=C(C=C1F)SC#N)C(C1=NC=CC=C1C)=O | C14H10FN3OS
reactant | ammonium hydroxide | 300 ml | [OH-].[NH4+]
solvent | methanol | 300 ml | CO | CH4O
product | 5-Amino-6-fluoro-3-(3-methyl-2-pyridyl)-1,2-benzisothiazole | 1.93 g, 66.6% | NC=1C(=CC2=C(C(=NS2)C2=NC=CC=C2C)C1)F | C13H10FN3S
